US07666879B2
B. 1-(3-Amino-phenyl)-2,2-dimethyl-propan-1-one
Combine 1-(3-iodo-phenyl)-2,2-dimethyl-propan-1-one (2.0 g, 8.3 mmol), benzophenone imine (1.7 mL, 1.2 equiv.), racemic BINAP (0.23 g, 4.5 mol %), NaOtBu (1.1 g, 1.4 equiv.), and THF (30 mL). De-gas thoroughly with nitrogen then add bis(dibenzylideneacetone) palladium (0.14 g, 3 mol %) and place under nitrogen. Heat the reaction at 50° C. overnight. The next morning add approximately 8 mL 5 N HCl (aq) and heat for an additional hour at 50° C. Let cool to room temperature then dilute with ethyl acetate and make basic with 1 N NaOH (aq). Wash organics with aqueous saturated sodium chloride. Dry over magnesium sulfate, filter and concentrate in vacuo. Purify by silica chromatography (Hex→9:1 Hex:EtOAc→4:1 Hex:EtOAc) to give a yellow residue (1.2 g, 82%). MS (ES), m/z 178 (M+1).

reactant | 1-(3-iodo-phenyl)-2,2-dimethyl-propan-1-one | 8.3 mmol, 2.0 g | IC=1C=C(C=CC1)C(C(C)(C)C)=O | C11H13IO
reactant | benzophenone imine | 1.7 mL, 1.2 equiv. | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | NaOtBu | 1.1 g, 1.4 equiv. | CC(C)(C)[O-].[Na+]
reactant | HCl | 5 N, approximately 8 mL | Cl | ClH
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | BINAP | 0.23 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(3-Amino-phenyl)-2,2-dimethyl-propan-1-one | 1.2 g, 82% | NC=1C=C(C=CC1)C(C(C)(C)C)=O | C11H15NO
